US05432164
1-Amino-4-phenylthiopiperidine (1.10 g, 6.7 mmol) was reacted with 9-(2',3',5'tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (2.5 g, 4 mmol), followed by debenzoylation of the purified product using methanolic ammonia. This provided the title 2-chloro-N-(4-phenylthio-1-piperidinyl)adenosine (1.25 g, 65%) as a foam, 1H NMR (DMSO-d6) δ3.51-3.60 (1H, m, H-5'a), 3.62-3.68 (1H, m, H-5'b), 3.95 (1H, q, H-4'), 4.14 (1H, q, H-3'), 4.50 (1H, q, H-2'), 5.08 (1H, t, 5'-OH), 5.21, 5.50 (2H, 2d, 2'- and 3'-OH), 5.83 (1H, d, H-1'), 7.24-7.45 (5H, 2m, Ar-H), 8.41 (1H, s, H-8), 9.44 (1H, s, N-H).

reactant | 1-Amino-4-phenylthiopiperidine | 6.7 mmol, 1.10 g | NN1CCC(CC1)SC1=CC=CC=C1 | C11H16N2S
reactant | 9-(2',3',5'tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 4 mmol, 2.5 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | ammonia | N | H3N
product | 2-chloro-N-(4-phenylthio-1-piperidinyl)adenosine | 1.25 g, 65% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NN1CCC(CC1)SC1=CC=CC=C1 | C21H25ClN6O4S
